US07468375B2
To a suspension of methyl 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (18.2 g, 46.0 mmol) in methanol (450 mL) and water (200 mL) was added lithium hydroxide (1.40 g 58.3 mmol, 1.3 eq.). The suspension was heated to reflux for 10 h, and the reaction was judge to be 95% complete by HPLC-MS analysis. Methanol (200 mL) and lithium hydroxide (0.7 g, 29.2 mmol) were added and the reflux continued for 18 h total. The volatiles were removed in vacuo to a residue. Water (200 mL) was added and the mixture was cooled to 10° C. and neutrialized with aqueous concentrated hydrochloric acid to pH 7. The white solid precipitated out, and filtered followed by washing with cold water, and dried in vacuoto afford 9.10 g (52%) of 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, APCI, +mode): RT—1.31 min, m/e=383.20 (M+H+, base). 1H NMR (400 MHz, DMSO-D6) d ppm 2.55 (t, J=5.16 Hz, 2H) 2.92 (s, 2H) 3.11 (s, 2H) 3.75 (s, 2H) 5.57 (s, 2H) 7.16 (t, J=8.81 Hz, 2H) 7.35 (dd, J=8.56, 5.54 Hz, 2H) 7.72 (s, 1H) 7.83 (s, 1H) 8.41 (s, 1H) 8.92 (s, 1H).

reactant | methyl 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 46.0 mmol, 18.2 g | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)CN3CC(NCC3)=O)C=C1 | C21H21FN4O3
reactant | lithium hydroxide | 58.3 mmol, 1.40 g, 1.3 eq. | [OH-].[Li+]
reactant | lithium hydroxide | 29.2 mmol, 0.7 g | [OH-].[Li+]
solvent | methanol | 450 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | Methanol | 200 mL | CO | CH4O
product | 1-(4-fluorobenzyl)-3-((3-oxopiperazin-1-yl)methyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 9.10 g, 52% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)CN3CC(NCC3)=O)C=C1 | C20H19FN4O3
